US07262206B2
(31) 1,5-diacetyl-3-(1-hydroxy-heptylidene)-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and heptanoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | heptanoic acid | C(CCCCCC)(=O)O | C7H14O2
product | 1,5-diacetyl-3-(1-hydroxy-heptylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(CCCCCC)O)=O | C19H23NO4
